US07705028B2
To a solution of methyl 6-bromo-2-naphthoate (150 mg, 0.57 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (150 mg, 0.68 mmol), and 2.0 M Na2CO3 (1.10 mL, aq) in dimethoxyethane (5 mL) was added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (14 mg, 0.02 mmol) and the mixture stirred at 70° C. for 20 min. The mixture was diluted with 25 mL of EtOAc then filtered through a plug of Celite and silica gel. The filtrate was washed with H2O, then brine, dried over Na2SO4, then concentrated and purified by silica gel chromatography (40 g of silica gel eluting with 0-50% EtOAc in hexanes over 45 minutes) to give methyl 6-(4-hydroxyphenyl)-2-naphthoate as a beige solid (55 mg, 35%.) 1H NMR (DMSO-d6): δ 9.67 (s, 1H), 8.60 (s, 1 H), 8.17-8.13 (m, 2 H), 8.02 (d, J=9 Hz, 1 H), 7.95 (d, J=9 Hz, 1 H), 7.87 (d, J=9 Hz, 1H), 7.67 (d, J=8 Hz, 2H), 6.89 (d, J=8 Hz, 2H), 3.89 (s, 3H). ESI-LCMS m/z 279 (M+H)+.

reactant | methyl 6-bromo-2-naphthoate | 0.57 mmol, 150 mg | BrC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C12H9BrO2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.68 mmol, 150 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | Na2CO3 | 2.0 M, 1.10 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethoxyethane | 5 mL | C(OC)COC | C4H10O2
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 0.02 mmol, 14 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 6-(4-hydroxyphenyl)-2-naphthoate | OC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C18H14O3
